US05977075
A solution of sodium methoxide in methanol is generated by dissolving sodium metal (0.89 g, 30.0 mmol) in dry methanol (25 mL). This solution is added via an addition funnel to a solution of benzamidine hydrochloride hydrate (2.35 g, 15.0 mmol) and 3-dimethyl-amino-2-methylpropenal (1.16 g, 10.2 mmol) in dry methanol (50 mL) at room temperature. The reaction mixture is refluxed for 4 hours, then cooled at room temperature. The mixture is concentrated in vacuo and the residue partitioned between dichloromethane (50 mL) and water (50 mL). The aqueous layer is extracted with dichloromethane (50 mL) and the combined organic layers are dried over magnesium sulfate. Filtration and concentration in vacuo gives 5-methyl-2-phenyl-pyrimidine as a yellow solid.

reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium | 30.0 mmol, 0.89 g | [Na] | Na
reactant | benzamidine hydrochloride hydrate | 15.0 mmol, 2.35 g | O.Cl.C(C1=CC=CC=C1)(=N)N
reactant | 3-dimethyl-amino-2-methylpropenal | 10.2 mmol, 1.16 g | C/C(=C\N(C)C)/C=O | C6H11NO
solvent | methanol | CO | CH4O
solvent | methanol | 25 mL | CO | CH4O
solvent | methanol | 50 mL | CO | CH4O
product | 5-methyl-2-phenyl-pyrimidine | CC=1C=NC(=NC1)C1=CC=CC=C1 | C11H10N2
